US07855227B2
Step B 2-[[2-(3-Benzyloxy-phenyl)-ethyl]-(furan-2-ylmethy)amino]-N-methyl-acetamide hydrochloride
A solution of 3.0 g (9.8 mmol) of [2-(3-benzyloxy-phenyl)-ethyl]-(furan-2-ylmethyl)amine, 15.0 g (10.7 mmol) of 2-chloro-N-methyl-acetamide and 1.87 ml (10.7 mmol) of diisopropylethylamine in 50 ml of acetonitrile was stirred under reflux for 24 hours. The solvent was removed under reduced pressure and the crude reaction mixture was purified by flash chromatography (ethyl acetate/hexane 1:1 v:v). The product isolated was dissolved in anhydrous hydrochloric acid in ethyl acetate. The solvent was removed under vacuum and the residue was triturated with diethyl ether. 2.66 g (65% yield) of the title compound were isolated as a hygroscopic solid.

reactant | [2-(3-benzyloxy-phenyl)-ethyl]-(furan-2-ylmethyl)amine | 9.8 mmol, 3.0 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)CCNCC=1OC=CC1 | C20H21NO2
reactant | 2-chloro-N-methyl-acetamide | 10.7 mmol, 15.0 g | ClCC(=O)NC | C3H6ClNO
reactant | diisopropylethylamine | 10.7 mmol, 1.87 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | hydrochloric acid | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[[2-(3-Benzyloxy-phenyl)-ethyl]-(furan-2-ylmethy)amino]-N-methyl-acetamide hydrochloride | 2.66 g, 65% yield | Cl.C(C1=CC=CC=C1)OC=1C=C(C=CC1)CCN(CC(=O)NC)CC=1OC=CC1 | InChI=1S/C23H26N2O3.ClH/c1-24-23(26)17-25(16-22-11-6-14-27-22)13-12-19-9-5-10-21(15-19)28-18-20-7-3-2-4-8-20;/h2-11,14-15H,12-13,16-18H2,1H3,(H,24,26);1H
